US04772600
2-(5-Bromo-2-furanyl)-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(5-bromo-2-furanyl)-3H-imidazo[4,5-b]pyridine acetic acid (5.0 g, 0.0155 mole) and 1,1'-carbonyldiimidazole (2.52 g, 0.0155 mole) in dry tetahydrofuran (100 ml) was stirred at room temperature for two hours with a stream of nitrogen bubbling through it. A solution of methylamine in tetrahydrofuran (31 ml of a 3.03M solution, 0.093 mole) was added, and the suspension was stirred at room temperature overnight under a nitrogen atmosphere. The reaction mixture was evaporated under reduced pressure, and the residue was triturated in water. The resulting solid was collected by filtration and rinsed twice with water, twice with a 5% potassium hydroxide solution, and twice again with water. The solid was dissolved in hot isopropyl alcohol and filtered, and the solution was allowed to cool to room temperature. Addition of water caused a precipitate to form which was collected by filtration and dried under high vacuum to give 2.95 g (57%) of title compound, mp. 187°-191° C.

reactant | 2-(5-bromo-2-furanyl)-3H-imidazo[4,5-b]pyridine acetic acid | 0.0155 mole, 5.0 g | BrC1=CC=C(O1)C1(NC=2C(=NC=CC2)N1)CC(=O)O | C12H10BrN3O3
reactant | 1,1'-carbonyldiimidazole | 0.0155 mole, 2.52 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | CN | CH5N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(5-Bromo-2-furanyl)-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 2.95 g, 57% | BrC1=CC=C(O1)C1=NC=2C(=NC=CC2)N1CC(=O)NC | C13H11BrN4O2
